US06169102A
5-[1-(indol-3-yl)-2,2,2-trifluoroethyl]-2-methylamino-2-oxazolin-4-one
Sodium ethoxide (580 mg) was added to a solution of methyl 4,4,4-trifluoro-2-hydroxy-3-(indol-3-yl)butyrate (980 mg) and N,N′-dimethyl guanidine hydrogen bromide (630 mg) in ethanol (2.5 ml). The mixture was refluxed for 1.5 hours and then cooled. To the cooled reaction mixture was added ice water (20 ml). After the pH of the mixture was adjusted to 7 using acetic acid, the whole was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and then dried over magnesium sulfate. Concentration of the solution under the reduced pressure gave residue, which was subjected to silica gel chromatography. Eluent with ethyl acetate-hexane was collected and concentrated to provide the titled compound (218 mg).

reactant | Sodium ethoxide | 580 mg | [O-]CC.[Na+]
reactant | methyl 4,4,4-trifluoro-2-hydroxy-3-(indol-3-yl)butyrate | 980 mg | FC(C(C(C(=O)OC)O)C1=CNC2=CC=CC=C12)(F)F | C13H12F3NO3
reactant | N,N′-dimethyl guanidine hydrogen bromide | 630 mg | Br.CNC(=N)NC
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 5-[1-(indol-3-yl)-2,2,2-trifluoroethyl]-2-methylamino-2-oxazolin-4-one | 218 mg | N1C=C(C2=CC=CC=C12)C(C(F)(F)F)C1C(N=C(O1)NC)=O | C14H12F3N3O2
